US07645789B2
To a solution of 1-tert-butyl-5-nitro-1H-indole (6.5 g, 0.030 mol) in MeOH (100 mL) was added Raney Nickel (0.65 g, 10%) under N2 protection. The mixture was stirred under hydrogen atmosphere (1 atm) at 30° C. for 1 h. The catalyst was filtered off and the filtrate was concentrated under vacuum to dryness. The residue was purified by column chromatography on silica gel (PE/EtOAc 1:2) to give 1-tert-butyl-1H-indol-5-amine (2.5 g, 45%). 1H-NMR (CDCl3, 400 MHz) δ 7.44 (d, J=8.8 Hz, 1H), 7.19 (dd, J=3.2 Hz, 1H), 6.96 (d, J=2.0 Hz, 1H), 6.66 (d, J=2.0, 8.8 Hz, 1H), 6.26 (d, J=3.2 Hz, 1H), 1.67 (s, 9H). MS (ESI) m/e (M+H+) 189.2.

reactant | 1-tert-butyl-5-nitro-1H-indole | 0.030 mol, 6.5 g | C(C)(C)(C)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C12H14N2O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Raney Nickel | 0.65 g | [Ni] | Ni
product | 1-tert-butyl-1H-indol-5-amine | 2.5 g, 45% | C(C)(C)(C)N1C=CC2=CC(=CC=C12)N | C12H16N2
